US07842688B2
c) tert-Butyl 3-(2-hydroxyethoxy)-4-(4-methoxyphenyl)piperidine-1-carboxylate
A solution of 1.01 g of tert-butyl 3-hydroxy-4-(4-methoxyphenyl)piperidine-1-carboxylate in 40 ml of N,N-dimethylformamide is added at 0° C. to the suspension of 0.26 g of sodium hydride dispersion (60%) in 40 ml of N,N-dimethylformamide. After 30 minutes, the reaction mixture is admixed with 0.83 g of [1,3,2]dioxathiolane 2,2-dioxide and stirred at room temperature over 18 hours. The reaction mixture is cooled to 0° C., admixed with water and concentrated by evaporation. The residue is stirred in a 1:10 mixture of 0.1 M H2SO4/dioxane at 50° C. over 60 hours, neutralized with saturated aqueous sodium hydrogencarbonate solution and concentrated by evaporation. The residue is dissolved in ethyl acetate, washed with water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a yellow oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (1:1 EtOAc-heptane); Rt=4.24.

reactant | tert-butyl 3-hydroxy-4-(4-methoxyphenyl)piperidine-1-carboxylate | 1.01 g | OC1CN(CCC1C1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C17H25NO4
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | [1,3,2]dioxathiolane 2,2-dioxide | 0.83 g | O1S(OCC1)(=O)=O | C2H4O4S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 3-(2-hydroxyethoxy)-4-(4-methoxyphenyl)piperidine-1-carboxylate | OCCOC1CN(CCC1C1=CC=C(C=C1)OC)C(=O)OC(C)(C)C | C19H29NO5
